US07094909B2
Amine was generated by the condensation of ethylacetoacetate with cyanoacetamide followed by reaction with phosphorus oxychloride to provide 3-cyano-2,5-dihydroxy-4-methylpyridine. Hydrogenation with palladium dichloride gave the 3-cyano-4-methylpyridine which was hydrogenated with Raney nickel in ammonia and ethanol to afford the desired amine (J. Org. Chem. 1959, 25, 560.).

reactant | ethylacetoacetate | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-cyano-2,5-dihydroxy-4-methylpyridine | C(#N)C=1C(=NC=C(C1C)O)O | C7H6N2O2
